US07211668B2
N-{2-[5-(4-Chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-{[4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetyl}-glycine ethyl ester
The title compound was synthesized by the reaction of N-{2-[5-(4-chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester with [4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetic acid as per the procedure of example 13. 1H NMR (500 MHz; DMSO-d6) δ 10.71 (s, 1H), 9.22 (brs, 0.6H), 9.08 (brs, 0.4H), 8.40 (s, 1H), 8.07–7.96 (m, 2H), 7.92 (d, 0.6H), 7.86 (d, 0.4H), 7.02 (d, 0.6H), 7.00 (d, 0.4H), 6.99 (s, 1H), 6.91 (s, 2H), 6.02 (s, 2H), 5.08 (s, 2H), 4.81 (s, 1.2H), 4.64 (s, 0.8H), 4.37 (s, 0.8H), 4.18 (q, 0.8H), 4.08 (s, 1.2H), 4.08 (q, 1.2H), 3.62 (t, 1.2H), 3.47 (t, 1.2H), 3.43 (t, 0.8H), 3.28 (t, 0.8H), 1.24 (t, 1.2H), 1.17 (t, 1.8H).

reactant | N-{2-[5-(4-chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=NN1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C14H16ClN5O6S2
reactant | [4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetic acid | C(C1=CC=2OCOC2C=C1)OC(=O)NC1=NC(N(C=C1)CC(=O)O)=O | C15H13N3O7
product | N-{2-[5-(4-Chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-{[4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetyl}-glycine ethyl ester | C(C)OC(CN(C(CN1C(=O)N=C(NC(=O)OCC2=CC=3OCOC3C=C2)C=C1)=O)CCNS(=O)(=O)C=1SC(=NN1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C29H27ClN8O12S2
